US08217177B2
In a pressure vessel, 3N HCl (1.2 ml, 3.5 mmol) was added to 4-((6-(6-fluoropyridin-2-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline (0.071 g, 0.18 mmol) in dioxane (0.60 mL). The reaction mixture was then heated at 100° C. for 3.5 h. Concentrated HCl (0.300 mL, 9.9 mmol) was added and the reaction was heated at 100° C. for 2 h. The reaction mixture was concentrated in vacuo, and then dried on high vacuum. Triethylamine (0.74 ml, 5.3 mmol) was added to the compound, and it was allowed to stir for one hour until the free base crashed out of solution. The compound was dissolved partially in DCM/MeOH, however, fully dissolved after addition of hot DMSO. The compound was purified via flash chromatograph, eluting with 0-10% MeOH/NH4OH in DCM. The compound was sonicated in DCM and filtered to remove the triethylamine-hydrochloride salt, and yielded 6-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)pyridin-2(1H)-one.

reactant | HCl | 3.5 mmol, 3N, 1.2 ml | Cl | ClH
reactant | 4-((6-(6-fluoropyridin-2-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline | 0.18 mmol, 0.071 g | FC1=CC=CC(=N1)C=1C=CC=2N(C1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C22H16FN5O2
reactant | HCl | 9.9 mmol, 0.300 mL | Cl | ClH
reactant | Triethylamine | 5.3 mmol, 0.74 ml | C(C)N(CC)CC | C6H15N
reactant | DMSO | CS(=O)C | C2H6OS
solvent | dioxane | 0.60 mL | O1CCOCC1 | C4H8O2
solvent | DCM MeOH | C(Cl)Cl.CO
product | 6-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)pyridin-2(1H)-one | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C2=CC=CC(N2)=O | C22H17N5O3
